US04602035
4-Dimethylamino-2-(2-hydroxyphenyl)-2-(2-tolyl)butanol hydrochloride
A solution of 2-[2-oxo-3-(2-tolyl)-3-dihydrobenzofuranyl]-N,N-dimethylethylamine (90 g, 305 mmol) in anhydrous THF (400 ml) was added to a suspension of LiAlH4 (11.4 g, 300 mmol) in THF (850 ml) at 0°. This mixture was stirred 1 hour, quenched with saturated NH4Cl (200 ml) and the organic phase decanted. The solids were washed with EtOAc (3×300 ml) and decanted. The organic solutions were combined and evaporated in vacuo to give an oil which solidified on cooling. The crude residue was dissolved in CH2Cl2 (500 ml), washed with dilute NH4Cl until the pH became 8, and dried over Na2SO4. A solution of the diolamine (8.4 g) in CH2Cl2 (60 ml) was added dropwise to an ethereal/HCl solution (1200 ml). Filtration of the precipitated salt gave 8.6 g of a solid, which was recrystallized from MeCN (800 ml) to yield 6.7 g (71%) of crystals, m.p. 205°-207°.

reactant | 2-[2-oxo-3-(2-tolyl)-3-dihydrobenzofuranyl]-N,N-dimethylethylamine | 305 mmol, 90 g | O=C1OC=2C(C1(C1=C(C=CC=C1)C)CCN(C)C)CC=CC2 | C19H23NO2
reactant | LiAlH4 | 300 mmol, 11.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 850 ml | C1CCOC1 | C4H8O
product | 4-Dimethylamino-2-(2-hydroxyphenyl)-2-(2-tolyl)butanol hydrochloride | 8.6 g | Cl.CN(CCC(CO)(C1=C(C=CC=C1)C)C1=C(C=CC=C1)O)C | InChI=1S/C19H25NO2.ClH/c1-15-8-4-5-9-16(15)19(14-21,12-13-20(2)3)17-10-6-7-11-18(17)22;/h4-11,21-22H,12-14H2,1-3H3;1H
